US04737508
Heat a mixture of 22 g of 2-bromo-4,6-dichlorobenzyl bromide, 30 g anhydrous sodium acetate and 80 mL of glacial acetic acid for 18 hr at 100° C. Evaporate the mixture to a dry residue. Treat the residue with 200 mL of ethanol and 200 mL of 2N NaOH. Stir the mixture at reflux for 3 hr. Cool the mixture and concentrate the cooled mixture to 50 mL. Extract the cooled concentrate with Et2O. Dry the extract over anhydrous K2CO3 and evaporate it to a dry residue. Recrystallize the residue from toluene-hexane to give 10 g of 2-bromo-4,6-dichlorobenzyl alcohol, mp 111°-112° C.

reactant | 2-bromo-4,6-dichlorobenzyl bromide | 22 g | BrC1=C(CBr)C(=CC(=C1)Cl)Cl | C7H4Br2Cl2
reactant | sodium acetate | 30 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-4,6-dichlorobenzyl alcohol | 10 g | BrC1=C(CO)C(=CC(=C1)Cl)Cl | C7H5BrCl2O
